US05756754
3-[[2-(4-Morpholinyl)ethyl]amino]-1,2-benzisoxazol-5-yl methylcarbamate
To a stirred solution of 3-[[2-(4-morpholinyl)ethyl]-amino]-1,2-benzisoxazol-5-ol (1 g) and a catalytic amount of copper(I)chloride (0.05 g) in EtOAc (100 ml) was added methyl isocyanate (0.26 g). After 24 hours TLC (silica gel, 1:1:20 acetone/MeOL/DCM) showed no starting material. The reaction was filtered through neutral alumina eluting with EtOAc (1 l) and the filtrate was concentrated in vacuo. The residue was further purified by flash chromatography (silica gel) eluting with 1:1:20 acetone/MeOH/DCM to yield 0.4 g of the product, m.p. 135°-136° C.

reactant | 3-[[2-(4-morpholinyl)ethyl]-amino]-1,2-benzisoxazol-5-ol | 1 g | N1(CCOCC1)CCNC1=NOC2=C1C=C(C=C2)O | C13H17N3O3
reactant | methyl isocyanate | 0.26 g | CN=C=O | C2H3NO
reactant | acetone | CC(=O)C | C3H6O
reactant | DCM | C(Cl)Cl | CH2Cl2
solvent | EtOAc | 100 ml | CCOC(=O)C | C4H8O2
catalyst | copper(I)chloride | 0.05 g | [Cu]Cl
product | 3-[[2-(4-Morpholinyl)ethyl]amino]-1,2-benzisoxazol-5-yl methylcarbamate | 0.4 g | CNC(OC=1C=CC2=C(C(=NO2)NCCN2CCOCC2)C1)=O | C15H20N4O4
